US04886835
The procedure is as in Example 29 for the preparation of ethyl (4-methylbenzylthio)acetate, starting with 2-bromomethylnaphthalene (20 g), sodium hydride (5.1 g) in a 50% strength dispersion in liquid paraffin and ethyl 2-mercaptoacetate (10.9 g) in tetrahydrofuran (200 cc). After purification by chromatography on a silica column with a mixture of cyclohexane and ethyl acetate (80:20 by volume) as eluent, ethyl (2-naphthylmethylthio)acetate (12 g) is obtained, and is used in the crude state in the subsequent syntheses.

reactant | ethyl (4-methylbenzylthio)acetate | CC1=CC=C(CSCC(=O)OCC)C=C1 | C12H16O2S
reactant | 2-bromomethylnaphthalene | 20 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | sodium hydride | 5.1 g | [H-].[Na+]
reactant | ethyl 2-mercaptoacetate | 10.9 g | SCC(=O)OCC | C4H8O2S
solvent | tetrahydrofuran | 200 cc | O1CCCC1 | C4H8O
product | ethyl (2-naphthylmethylthio)acetate | 12 g | C1=C(C=CC2=CC=CC=C12)CSCC(=O)OCC | C15H16O2S
